US04585773
Step (a): Preparation of N-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]phthalimide
A mixture of 1-(o-methoxyphenyl)piperazine (0.19 mol), N-(3-bromopropyl)phthalimide (0.186 mol) and micropulverized potassium carbonate (0.465 mol) in acetonitrile (375 ml) was heated at reflux for 16 hours. The cooled mixture was evaporated in vacuo and the residue diluted with water (800 ml) and extracted with chloroform (4×350 ml). After drying (MgSO4), the combined extracts were evaporated in vacuo. The residue was dried under high vacuum (<0.05 mm of Hg) at room temperature for 16 hours resulting in 72.0 g of a yellow solid ~100% yield); mp 85°-93° C. Spectral data were consistent with the assigned structure.

reactant | 1-(o-methoxyphenyl)piperazine | 0.19 mol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N-(3-bromopropyl)phthalimide | 0.186 mol | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 0.465 mol | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 375 ml | C(C)#N | C2H3N
product | N-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propyl]phthalimide | 72.0 g, ~100% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H25N3O3
